US06331538B1
1-(4-Fluorophenyl)-6-fluoro-3-benzyloxy-7-pyrrolidin-1-yl-1H-quinazoline-2,4-dione
Using General Method 4, the reaction of pyrrolidine (0.07 mL, 0.92 mmol), triethylamine (0.08 mL, 0.92 mmol), and 1-(4-fluorophenyl)-3-benzyloxy-6,7-difluoro-1H-quinazoline-2,4-dione (Example B-1, 0.127 g, 0.31 mmol) provided 0.087 g of the title compound as a solid.

reactant | pyrrolidine | 0.92 mmol, 0.07 mL | N1CCCC1 | C4H9N
reactant | triethylamine | 0.92 mmol, 0.08 mL | C(C)N(CC)CC | C6H15N
reactant | 1-(4-fluorophenyl)-3-benzyloxy-6,7-difluoro-1H-quinazoline-2,4-dione | 0.31 mmol, 0.127 g | FC1=CC=C(C=C1)N1C(N(C(C2=CC(=C(C=C12)F)F)=O)OCC1=CC=CC=C1)=O | C21H13F3N2O3
product | 1-(4-Fluorophenyl)-6-fluoro-3-benzyloxy-7-pyrrolidin-1-yl-1H-quinazoline-2,4-dione | 0.087 g | FC1=CC=C(C=C1)N1C(N(C(C2=CC(=C(C=C12)N1CCCC1)F)=O)OCC1=CC=CC=C1)=O | C25H21F2N3O3
